US09102591B2
A solution of 1-(6-acetyl-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile (17 mg, 0.064 mmol) in THF (1.2 mL) was cooled at −50° C. and treated with a 3.0 M solution of methylmagnesium bromide in ether (110 μL, 0.32 mmol). After stirring at −50° C. for 3 hours, the reaction was quenched by adding saturated aqueous ammonium chloride (5 mL) and stirred at room temperature for a few minutes. AcOEt (5 mL) was added and the biphasic mixture was stirred vigorously for a few seconds. The layers were separated and the aqueous layer was extracted again with AcOEt (5 mL). The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was then purified by preparative TLC, eluting with 60% AcOEt in hexanes to afford 4,4-difluoro-1-[6-(1-hydroxy-1-methyl-ethyl)-pyridin-3-yl]-cyclohexanecarbonitrile as a colorless oil (8.7 mg, 48%). LC-MS (m/z) 280.0 (MH+); tR=1.11.

reactant | 1-(6-acetyl-pyridin-3-yl)-4,4-difluoro-cyclohexanecarbonitrile | 0.064 mmol, 17 mg | C(C)(=O)C1=CC=C(C=N1)C1(CCC(CC1)(F)F)C#N | C14H14F2N2O
reactant | methylmagnesium bromide | C[Mg]Br
reactant | ether | 0.32 mmol, 110 μL | CCOCC | C4H10O
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 4,4-difluoro-1-[6-(1-hydroxy-1-methyl-ethyl)-pyridin-3-yl]-cyclohexanecarbonitrile | 8.7 mg, 48% | FC1(CCC(CC1)(C#N)C=1C=NC(=CC1)C(C)(C)O)F | C15H18F2N2O
